US05015661
rac-2-{[3-(Trifluoromethyl)phenyl]ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
This compound was similarly prepared by reacting rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 3-trifluoromethylbromobenzene as described in Example 26. The product was isolated by chromatography over 50 fold amount of silica gel using methylene chloride for elution. Crystallization of the combined clean fractions from petroleum ether gave colorless crystals with m.p. 81°-83°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 3-trifluoromethylbromobenzene | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [3-(Trifluoromethyl)phenyl]ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | FC(C=1C=C(C=CC1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)(F)F | C22H21F3O2
